*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 4.3
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_0 1 2 3 4 REF
C_C1 1 REF 0.3450132362741pf
C_C2 1 2 16.21602349613pf
C_C3 1 4 0.246933786834pf
C_C4 2 REF 0.5448702568709pf
C_C5 2 3 0.1240571100782pf
C_C6 3 REF 0.3914266447919pf
C_C7 3 4 6.9163625666005pf
C_C8 4 REF 0.3621365554542pf
L_L1 3 5 1.3108467502463nh
R_RL1 5 4 -1.313567554e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_1 1 2 3 4 REF
C_C1 1 REF 0.3536225200923pf
C_C2 1 2 16.311422154813pf
C_C3 1 4 0.2397315447901pf
C_C4 2 REF 0.5564525921647pf
C_C5 2 3 0.1190407731401pf
C_C6 3 REF 0.3873279709357pf
C_C7 3 4 5.1191170662875pf
C_C8 4 REF 0.3658519839628pf
L_L1 3 5 1.312327080168nh
R_RL1 5 4 4.2973240852e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_2 1 2 3 4 REF
C_C1 1 REF 0.351350627582pf
C_C2 1 2 16.433737840382pf
C_C3 1 4 0.23496137371pf
C_C4 2 REF 0.5574914834277pf
C_C5 2 3 0.1153312577974pf
C_C6 3 REF 0.3842558817021pf
C_C7 3 4 3.865321585032pf
C_C8 4 REF 0.3685412727335pf
L_L1 3 5 1.3135609607162nh
R_RL1 5 4 2.6289275411e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_3 1 2 3 4 REF
C_C1 1 REF 0.3419391946193pf
C_C2 1 2 16.626484747907pf
C_C3 1 4 0.2316242159643pf
C_C4 2 REF 0.5526773465936pf
C_C5 2 3 0.1120548366273pf
C_C6 3 REF 0.3815492085749pf
C_C7 3 4 2.7877711975886pf
C_C8 4 REF 0.3708318432808pf
L_L1 3 5 1.3148053052836nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_4 1 2 3 4 REF
C_C1 1 REF 0.3286875062589pf
C_C2 1 2 16.909887863072pf
C_C3 1 4 0.2303617889568pf
C_C4 2 REF 0.5454641357558pf
C_C5 2 3 0.1095553600327pf
C_C6 3 REF 0.3794604518541pf
C_C7 3 4 1.9255383861884pf
C_C8 4 REF 0.3725395840823pf
L_L1 3 5 1.3160431159889nh
R_RL1 5 4 -1.354367123e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_5 1 2 3 4 REF
C_C1 1 REF 0.316577543721pf
C_C2 1 2 17.255486948954pf
C_C3 1 3 0.0106148812079pf
C_C4 1 4 0.2314157516589pf
C_C5 2 REF 0.5400237629797pf
C_C6 2 3 0.1082618329552pf
C_C7 3 REF 0.3782420725463pf
C_C8 3 4 1.3561149017295pf
C_C9 4 REF 0.3734966316907pf
L_L1 3 5 1.3170403483698nh
R_RL1 5 4 -3.145723167e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_6 1 2 3 4 REF
C_C1 1 REF 0.3065982166167pf
C_C2 1 2 17.666533930803pf
C_C3 1 3 0.0116625296728pf
C_C4 1 4 0.2342785614221pf
C_C5 2 REF 0.5373850383416pf
C_C6 2 3 0.1079151963674pf
C_C7 3 REF 0.377581042526pf
C_C8 3 4 0.9669036112768pf
C_C9 4 REF 0.3739899050217pf
L_L1 3 5 1.3178569567275nh
R_RL1 5 4 -4.67118407e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_7 1 2 3 4 REF
C_C1 1 REF 0.2973974576779pf
C_C2 1 2 18.23943641219pf
C_C3 1 3 0.0114536168233pf
C_C4 1 4 0.2395626258555pf
C_C5 2 REF 0.5377544658117pf
C_C6 2 3 0.108510683576pf
C_C7 3 REF 0.377242453619pf
C_C8 3 4 0.6570998241095pf
C_C9 4 REF 0.3742155112413pf
L_L1 3 5 1.3186240843879nh
R_RL1 5 4 -6.095111712e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_8 1 2 3 4 REF
C_C1 1 REF 0.2890222406778pf
C_C2 1 2 19.015745521559pf
C_C3 1 4 0.2476730696793pf
C_C4 2 REF 0.5416532148864pf
C_C5 2 3 0.1102420399465pf
C_C6 3 REF 0.3771559670144pf
C_C7 3 4 0.4192101836745pf
C_C8 4 REF 0.3742361418513pf
L_L1 3 5 1.3193444742905nh
R_RL1 5 4 -7.33173365e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_9 1 2 3 4 REF
C_C1 1 REF 0.2808223974711pf
C_C2 1 2 20.07821099876pf
C_C3 1 4 0.2594384780575pf
C_C4 2 REF 0.549485932367pf
C_C5 2 3 0.1134270665555pf
C_C6 3 REF 0.377236837432pf
C_C7 3 4 0.2444694847624pf
C_C8 4 REF 0.374120472836pf
L_L1 3 5 1.3199798375881nh
R_RL1 5 4 -8.192575478e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_10 1 2 3 4 REF
C_C1 1 REF 0.2716267177519pf
C_C2 1 2 21.51180598718pf
C_C3 1 4 0.2756264824383pf
C_C4 2 REF 0.5611850702122pf
C_C5 2 3 0.1183204637155pf
C_C6 3 REF 0.3773812930307pf
C_C7 3 4 0.1184210257881pf
C_C8 4 REF 0.3739493981585pf
L_L1 3 5 1.3205436478444nh
R_RL1 5 4 -8.583562158e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_11 1 2 3 4 REF
C_C1 1 REF 0.2596970017976pf
C_C2 1 2 23.486847641975pf
C_C3 1 4 0.2979364336325pf
C_C4 2 REF 0.5772849982898pf
C_C5 2 3 0.1254676208215pf
C_C6 3 REF 0.3775081386876pf
C_C7 3 4 0.0301977809089pf
C_C8 4 REF 0.3737850413083pf
L_L1 1 5 61.880151747677nh
R_RL1 5 2 5.0575612171415
L_L2 3 6 1.3209843209266nh
R_RL2 6 4 -8.369558418e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_12 1 2 3 4 REF
C_C1 1 REF 0.2430360669904pf
C_C2 1 2 26.215575879054pf
C_C3 1 4 0.3284668460022pf
C_C4 2 REF 0.598637501983pf
C_C5 2 3 0.1354961062863pf
C_C6 3 REF 0.3775607618918pf
C_C7 4 REF 0.3736751984503pf
L_L1 1 5 35.441966674681nh
R_RL1 5 2 2.5991609609264
L_L2 3 6 1.3210625946285nh
R_RL2 6 4 -7.509260831e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_13 1 2 3 4 REF
C_C1 1 REF 0.2183379893483pf
C_C2 1 2 30.137134230535pf
C_C3 1 4 0.3717255475322pf
C_C4 2 REF 0.6278484381644pf
C_C5 2 3 0.1497907282011pf
C_C6 3 REF 0.3775030414049pf
C_C7 4 REF 0.3736613118823pf
R_R1 1 2 -894.8657673806
L_L1 1 5 62.771721932229nh
R_RL1 5 2 17.620555144589
L_L2 3 6 1.3208162721846nh
R_RL2 6 4 -5.582944141e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_14 1 2 3 4 REF
C_C1 1 REF 0.180816219224pf
C_C2 1 2 35.936497165957pf
C_C3 1 4 0.4348354486884pf
C_C4 2 REF 0.6693700606405pf
C_C5 2 3 0.1705672101092pf
C_C6 3 REF 0.3773168382983pf
C_C7 4 REF 0.3737902676673pf
R_R1 1 2 -562.5475594625
L_L1 1 5 15.195703542972nh
R_RL1 5 2 2.2046448840538
L_L2 3 6 1.3203669178084nh
R_RL2 6 4 -3.761935477e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_15 1 2 3 4 REF
C_C1 1 REF 0.1198780250336pf
C_C2 1 2 45.181516396243pf
C_C3 1 4 0.5344755396704pf
C_C4 2 REF 0.7337811396984pf
C_C5 2 3 0.2032329757763pf
C_C6 3 REF 0.3769683737706pf
C_C7 4 REF 0.3741661991483pf
R_R1 1 2 -378.0882474997
L_L1 1 5 8.3212710568315nh
R_RL1 5 2 0.9283637297067
L_L2 3 6 1.3196326568812nh
R_RL2 6 4 -1.20912232e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_16 1 2 3 4 REF
C_C1 1 2 62.655634688021pf
C_C2 1 4 0.7220530729049pf
C_C3 2 REF 0.8536070974524pf
C_C4 2 3 0.2647316271075pf
C_C5 3 REF 0.3763363247398pf
C_C6 4 REF 0.3751094038987pf
R_R1 1 2 -254.9952686129
L_L1 1 5 4.2921663218432nh
R_RL1 5 2 0.3256913321947
L_L2 3 6 1.3182673448031nh
R_RL2 6 4 1.7360769471e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_17 1 2 3 4 REF
C_C1 1 2 103.10442985052pf
C_C2 1 4 1.1560456525969pf
C_C3 2 REF 1.12870849448pf
C_C4 2 3 0.4072608931211pf
C_C5 3 REF 0.375065231796pf
C_C6 4 REF 0.3776801008938pf
R_R1 1 2 -164.8238215084
L_L1 1 5 1.4910377111778nh
R_RL1 5 2 0.1003913025713
L_L2 1 6 65.9839624997nh
R_RL2 6 3 0.0615580242499
L_L3 1 7 65.237350575021nh
R_RL3 7 4 0.062073283362
L_L4 2 8 66.076276870804nh
R_RL4 8 3 0.0052155329631
L_L5 2 9 65.332609528117nh
R_RL5 9 4 0.0050461846004
L_L6 3 10 1.3151860845802nh
R_RL6 10 4 4.735234076e-5
Kn_K1 L_L1 L_L2 0.0705079870595
Kn_K2 L_L1 L_L3 0.0707610253846
Kn_K3 L_L1 L_L4 -0.07975912959
Kn_K4 L_L1 L_L5 -0.080360956783
Kn_K5 L_L2 L_L3 0.98999336856
Kn_K6 L_L2 L_L4 0.9887096538882
Kn_K7 L_L2 L_L5 0.978619701605
Kn_K8 L_L2 L_L6 -0.110663224752
Kn_K9 L_L3 L_L4 0.9786720040912
Kn_K10 L_L3 L_L5 0.9885808086476
Kn_K11 L_L3 L_L6 0.0306913055257
Kn_K12 L_L4 L_L5 0.9900075036407
Kn_K13 L_L4 L_L6 -0.110427960009
Kn_K14 L_L5 L_L6 0.0308277533803
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_18 1 2 3 4 REF
C_C1 1 2 247.66903529631pf
C_C2 1 4 2.707626584559pf
C_C3 2 REF 2.1083525902636pf
C_C4 2 3 0.9167667817045pf
C_C5 3 REF 0.3712224003427pf
C_C6 4 REF 0.3877510102671pf
R_R1 1 2 -95.01000458836
L_L1 1 5 56.13249501328nh
R_RL1 5 REF -0.032020079539
L_L2 1 6 0.420684368137nh
R_RL2 6 2 0.0172262836288
L_L3 1 7 21.654007976436nh
R_RL3 7 3 0.0101797555439
L_L4 1 8 20.958724263385nh
R_RL4 8 4 0.010448255098
L_L5 2 9 55.796715639824nh
R_RL5 9 REF -0.014043338497
L_L6 2 10 21.727355607272nh
R_RL6 10 3 0.0011571915031
L_L7 2 11 21.036089386711nh
R_RL7 11 4 0.0010280342983
L_L8 3 12 77.284426699097nh
R_RL8 12 REF -0.022551193027
L_L9 3 13 1.3043361769424nh
R_RL9 13 4 7.0998864542e-5
L_L10 4 14 76.57966083044nh
R_RL10 14 REF -0.022221409537
Kn_K1 L_L1 L_L2 0.0778346111776
Kn_K2 L_L1 L_L5 0.9962459969242
Kn_K3 L_L1 L_L8 0.8484271387401
Kn_K4 L_L1 L_L10 0.8522499405526
Kn_K5 L_L2 L_L3 0.057540468177
Kn_K6 L_L2 L_L4 0.057810608876
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081704026602
Kn_K9 L_L2 L_L7 -0.08371086203
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9695199910732
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.990304063132
Kn_K15 L_L3 L_L7 0.9595984418017
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.188128042278
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9598379558563
Kn_K21 L_L4 L_L7 0.9899841484658
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0582435069493
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8478610448467
Kn_K26 L_L5 L_L10 0.8516503003687
Kn_K27 L_L6 L_L7 0.9696254965125
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.187432895866
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0585197907469
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1000532580849
Kn_K35 L_L8 L_L10 0.9915332044982
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_19 1 2 3 4 REF
C_C1 1 2 6984.573390799pf
C_C2 1 4 75.035117974623pf
C_C3 2 REF 47.707220490332pf
C_C4 2 3 24.646358861921pf
C_C5 3 REF 0.2100641895659pf
C_C6 3 4 0.1177158252056pf
C_C7 4 REF 0.8767638926949pf
R_R1 1 REF -86.65869574116
R_R2 1 2 0.5858307673686
R_R3 1 3 -166.1611142631
R_R4 1 4 54.613084747658
R_R5 2 REF 86.692963636204
R_R6 2 3 166.23516851228
R_R7 2 4 -54.63708921421
L_L1 1 5 1.2406792320474nh
R_RL1 5 REF -1.37022023e-5
L_L2 1 6 0.0101091465757nh
R_RL2 6 2 -2.471759797e-3
L_L3 1 7 1.1155934483615nh
R_RL3 7 3 -6.727777475e-4
L_L4 1 8 0.6397027324792nh
R_RL4 8 4 -1.687255826e-3
L_L5 2 9 1.2341387412926nh
R_RL5 9 REF -2.487393964e-3
L_L6 2 10 1.1159697005432nh
R_RL6 10 3 -5.254444958e-4
L_L7 2 11 0.6438831675792nh
R_RL7 11 4 -7.175665072e-5
L_L8 3 12 2.3475214908758nh
R_RL8 12 REF -6.882326306e-4
L_L9 3 13 0.9292445748496nh
R_RL9 13 4 -1.814515445e-4
L_L10 4 14 1.8666640609575nh
R_RL10 14 REF -1.702853856e-3
Kn_K1 L_L1 L_L2 0.0743340472242
Kn_K2 L_L1 L_L5 0.9959186739052
Kn_K3 L_L1 L_L8 0.7244202841577
Kn_K4 L_L1 L_L10 0.8107539349021
Kn_K5 L_L2 L_L3 0.0458249279856
Kn_K6 L_L2 L_L4 0.0368624308026
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.049359585853
Kn_K9 L_L2 L_L7 -0.088558191039
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.019624975877
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.4889169611768
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9954699399811
Kn_K16 L_L3 L_L7 0.4815853225765
Kn_K17 L_L3 L_L8 0.7639543023123
Kn_K18 L_L3 L_L9 -0.690033461207
Kn_K19 L_L3 L_L10 0.8549994667878
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.4853260866268
Kn_K22 L_L4 L_L7 0.9921295546879
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2940039742606
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7243055126167
Kn_K27 L_L5 L_L10 0.8093677201693
Kn_K28 L_L6 L_L7 0.4899328160309
Kn_K29 L_L6 L_L8 0.7616888211032
Kn_K30 L_L6 L_L9 -0.688049285911
Kn_K31 L_L6 L_L10 0.851141312438
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2955070286933
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4773651704935
Kn_K36 L_L8 L_L10 0.7846205952243
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_20 1 2 3 4 REF
C_C1 1 REF 45.259726653618pf
C_C2 1 3 23.40180290218pf
C_C3 2 4 71.115988114126pf
C_C4 3 REF 0.5339379727243pf
R_R1 1 REF 105.5356544571
R_R2 1 2 -0.713234907503
R_R3 1 3 202.23279306604
R_R4 1 4 -66.49832253872
R_R5 2 REF -105.5841520048
R_R6 2 3 -202.3217925436
R_R7 2 4 66.527651880176
L_L1 1 5 1.0904385429127nh
R_RL1 5 REF 1.7643545971e-4
L_L2 1 6 0.0392650442063nh
R_RL2 6 2 0.6530586127634
L_L3 1 7 1.0238690184419nh
R_RL3 7 3 0.1692174927486
L_L4 1 8 0.5870445723306nh
R_RL4 8 4 0.458070491869
L_L5 2 9 1.1162891534492nh
R_RL5 9 REF 0.6748921824496
L_L6 2 10 1.0234200429947nh
R_RL6 10 3 0.1574341227731
L_L7 2 11 0.570253875538nh
R_RL7 11 4 0.0172437859692
L_L8 3 12 2.1060955629914nh
R_RL8 12 REF 0.1804178465045
L_L9 3 13 0.8906658870043nh
R_RL9 13 4 0.0704818242774
L_L10 4 14 1.6731665704497nh
R_RL10 14 REF 0.4763850936997
Kn_K1 L_L1 L_L2 0.0324144535405
Kn_K2 L_L1 L_L5 0.9822740657098
Kn_K3 L_L1 L_L8 0.7168415275126
Kn_K4 L_L1 L_L10 0.8056948164744
Kn_K5 L_L2 L_L3 0.0990349768702
Kn_K6 L_L2 L_L4 0.1846084255197
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.096816983746
Kn_K9 L_L2 L_L7 -0.075096539733
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0436925458115
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.4645090153224
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9808209809453
Kn_K16 L_L3 L_L7 0.4453108808079
Kn_K17 L_L3 L_L8 0.7397782397912
Kn_K18 L_L3 L_L9 -0.695059144059
Kn_K19 L_L3 L_L10 0.8314745592495
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.4284509624838
Kn_K22 L_L4 L_L7 0.9661735016181
Kn_K23 L_L4 L_L8 0.9769857178037
Kn_K24 L_L4 L_L9 0.3138204246629
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0157242577008
Kn_K27 L_L5 L_L8 0.7170688679972
Kn_K28 L_L5 L_L9 -0.010147852074
Kn_K29 L_L5 L_L10 0.8119118272798
Kn_K30 L_L6 L_L7 0.4601179849863
Kn_K31 L_L6 L_L8 0.7488972936437
Kn_K32 L_L6 L_L9 -0.703769808737
Kn_K33 L_L6 L_L10 0.8479500327847
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.306941952284
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.4832019037389
Kn_K38 L_L8 L_L10 0.7693929825265
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_21 1 2 3 4 REF
C_C1 1 2 175.68705940844pf
C_C2 1 4 1.9302996680475pf
C_C3 2 REF 1.6250409333257pf
C_C4 2 3 0.6641780806116pf
C_C5 3 REF 0.3711983026726pf
C_C6 4 REF 0.3805363287511pf
R_R1 1 2 -78.23204540641
L_L1 1 5 52.860371943541nh
R_RL1 5 REF 0.0098581392497
L_L2 1 6 0.1944250212648nh
R_RL2 6 2 0.012002883297
L_L3 1 7 17.859228048761nh
R_RL3 7 3 0.0071025014529
L_L4 1 8 17.151272700707nh
R_RL4 8 4 0.0073739717555
L_L5 2 9 52.341355845086nh
R_RL5 9 REF 0.0228245724237
L_L6 2 10 17.994367623565nh
R_RL6 10 3 4.3828730708e-4
L_L7 2 11 17.294534380509nh
R_RL7 11 4 3.8502939551e-4
L_L8 3 12 70.352735308143nh
R_RL8 12 REF 0.018057192467
L_L9 3 13 1.298738821666nh
R_RL9 13 4 -2.503209081e-5
L_L10 4 14 69.632109092248nh
R_RL10 14 REF 0.0183372117204
Kn_K1 L_L1 L_L2 0.1112722720852
Kn_K2 L_L1 L_L5 0.998164031363
Kn_K3 L_L1 L_L8 0.8638034505709
Kn_K4 L_L1 L_L10 0.8681572928519
Kn_K5 L_L2 L_L3 0.0159078204343
Kn_K6 L_L2 L_L4 0.0140089198671
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088098027188
Kn_K9 L_L2 L_L7 -0.092077484716
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9631012312891
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9945843168142
Kn_K15 L_L3 L_L7 0.9574172660405
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.20833341864
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9580217491457
Kn_K21 L_L4 L_L7 0.9943642260264
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0625877378671
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8626856248082
Kn_K26 L_L5 L_L10 0.866965912858
Kn_K27 L_L6 L_L7 0.9633864251549
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.206709583226
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0631848580933
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1056290641678
Kn_K35 L_L8 L_L10 0.9907354174792
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_22 1 2 3 4 REF
C_C1 1 REF 0.1346566909866pf
C_C2 1 2 46.494551348177pf
C_C3 1 4 0.5445730488895pf
C_C4 2 REF 0.7573960140626pf
C_C5 2 3 0.2079105998589pf
C_C6 3 REF 0.3734111429452pf
C_C7 4 REF 0.3702147649935pf
R_R1 1 2 -866.2730712335
L_L1 1 5 0.5951840261167nh
R_RL1 5 2 0.0085361333583
L_L2 1 6 67.851237557648nh
R_RL2 6 3 0.0117812050686
L_L3 1 7 66.965973291517nh
R_RL3 7 4 0.0118247855206
L_L4 2 8 68.636485852443nh
R_RL4 8 3 -8.662968419e-4
L_L5 2 9 67.758935532576nh
R_RL5 9 4 -8.525083466e-4
L_L6 3 10 1.3114442746096nh
R_RL6 10 4 -4.645764859e-5
Kn_K1 L_L1 L_L2 -0.014954295673
Kn_K2 L_L1 L_L3 -0.01566374957
Kn_K3 L_L1 L_L4 -0.107989609358
Kn_K4 L_L1 L_L5 -0.109293998064
Kn_K5 L_L2 L_L3 0.9902937766988
Kn_K6 L_L2 L_L4 0.9956557634636
Kn_K7 L_L2 L_L5 0.9858837192339
Kn_K8 L_L2 L_L6 -0.116436364112
Kn_K9 L_L3 L_L4 0.9860712879253
Kn_K10 L_L3 L_L5 0.9955994724623
Kn_K11 L_L3 L_L6 0.0227384608705
Kn_K12 L_L4 L_L5 0.9904054821205
Kn_K13 L_L4 L_L6 -0.11536186085
Kn_K14 L_L5 L_L6 0.023014174174
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_23 1 2 3 4 REF
C_C1 1 REF 0.322430493646pf
C_C2 1 2 19.422338282124pf
C_C3 1 3 0.0199873469318pf
C_C4 1 4 0.2539973389704pf
C_C5 2 REF 0.581109179261pf
C_C6 2 3 0.110998159487pf
C_C7 3 REF 0.3729876339684pf
C_C8 4 REF 0.3670549213635pf
L_L1 1 5 0.9536415449506nh
R_RL1 5 2 2.924278254e-4
L_L2 3 6 1.313175847358nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_24 1 2 3 4 REF
C_C1 1 REF 0.3892171491316pf
C_C2 1 2 10.584577283807pf
C_C3 1 3 0.0558743474629pf
C_C4 1 4 0.1577103835766pf
C_C5 2 REF 0.5283752040066pf
C_C6 2 3 0.078010463635pf
C_C7 3 REF 0.3718708587932pf
C_C8 4 REF 0.3649070288083pf
L_L1 1 5 1.3621405905313nh
R_RL1 5 2 3.4690010077e-5
L_L2 3 6 1.3111100794329nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_25 1 2 3 4 REF
C_C1 1 REF 0.4225693173367pf
C_C2 1 2 6.9377941748242pf
C_C3 1 3 0.0751828188548pf
C_C4 1 4 0.1164866880697pf
C_C5 2 REF 0.5126998099485pf
C_C6 2 3 0.0623486291433pf
C_C7 2 4 0.0307854212658pf
C_C8 3 REF 0.3702650564203pf
C_C9 4 REF 0.3627196606062pf
L_L1 1 5 1.7812335378586nh
R_RL1 5 2 3.7594774606e-4
L_L2 3 6 1.3086736476126nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_26 1 2 3 4 REF
C_C1 1 REF 0.437326483123pf
C_C2 1 2 5.7516467490205pf
C_C3 1 3 0.0849826153993pf
C_C4 1 4 0.1018606074312pf
C_C5 2 REF 0.5119681013451pf
C_C6 2 3 0.0554443083989pf
C_C7 2 4 0.0484697547113pf
C_C8 3 REF 0.3689356921271pf
C_C9 4 REF 0.3610868535845pf
L_L1 1 5 1.9008248623758nh
R_RL1 5 2 9.1452113666e-5
L_L2 3 6 1.3076015968571nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param53_26

